US05250517
2.5 g (10 mmol) of benzylmalonic acid diethyl ester and 1.45 ml (10 mmol) of t-butyl acrylate in 5 ml of acetonitrile were treated with 1.49 ml of DBU and stirred at room temperature for 6 hours. Thereafter, the mixture was poured into dilute hydrochloric acid (pH 2), extracted with ether, the organic phase was washed with a small amount of water, dried over sodium sulfate and the solvent was removed under reduced pressure. There were obtained 3.7 g (97%) of 4-t-butyl 2,2-diethyl 1-phenyl-2,2,4-butanetricarboxylate as a pale yellow oil which was used directly in the next step.

reactant | benzylmalonic acid diethyl ester | 10 mmol, 2.5 g | C(C)OC(C(C(=O)OCC)CC1=CC=CC=C1)=O | C14H18O4
reactant | t-butyl acrylate | 10 mmol, 1.45 ml | C(C=C)(=O)OC(C)(C)C | C7H12O2
reactant | DBU | 1.49 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | hydrochloric acid | pH 2 | Cl | ClH
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 4-t-butyl 2,2-diethyl 1-phenyl-2,2,4-butanetricarboxylate | 3.7 g, 97% | C1(=CC=CC=C1)CC(CCC(=O)OC(C)(C)C)(C(=O)OCC)C(=O)OCC | C21H30O6
